US09260397B2
1-(2,6-diisopropylphenyl)-3-ethyl imidazolium bromide
According to the general synthesis procedure, 4.4 mmol (1.00 g) 1-(2,6-diisopropylphenyl)imidazole and 5.3 mmol (0.650 g, 0.48 ml) 1-bromopropane are dissolved in 5 ml THF and heated for 20 h to 90° C.

reactant | 1-(2,6-diisopropylphenyl)imidazole | 4.4 mmol, 1.00 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C=NC=C1 | C15H20N2
reactant | 1-bromopropane | 5.3 mmol, 0.48 ml, 0.650 g | BrCCC | C3H7Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(2,6-diisopropylphenyl)-3-ethyl imidazolium bromide | [Br-].C(C)(C)C1=C(C(=CC=C1)C(C)C)[N+]1=CN(C=C1)CC | InChI=1S/C17H25N2.BrH/c1-6-18-10-11-19(12-18)17-15(13(2)3)8-7-9-16(17)14(4)5;/h7-14H,6H2,1-5H3;1H/q+1;/p-1
